US07511050B2
Step B: 3-(5-oxo-9-pentyl-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-3-yl) propanoic acid
The mixture of (4E)-4-[(2E)-(6-oxo-3-pentyl-1,3,6,7-tetrahydro-2H-purin-2-ylidene)hydrazono]butanoic acid (1.367 g, 5.1 mmol) in acetic acid (70 ml) was refluxed for 1 hour. Evaporation of solvent afforded the desired product (1.29 g, 99%) as yellowish solid. LCMS calculated for C14H19N6O3(M+H): 319.2; found: 319.2.

reactant | (4E)-4-[(2E)-(6-oxo-3-pentyl-1,3,6,7-tetrahydro-2H-purin-2-ylidene)hydrazono]butanoic acid | 5.1 mmol, 1.367 g | O=C1C=2NC=NC2N(\C(\N1)=N\N=C\CCC(=O)O)CCCCC | C14H20N6O3
solvent | acetic acid | 70 ml | C(C)(=O)O | C2H4O2
product | 3-(5-oxo-9-pentyl-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-3-yl) propanoic acid | 1.29 g, 99% | O=C1C=2NC=NC2N(C=2N1C(=NN2)CCC(=O)O)CCCCC | C14H18N6O3
